US07144908B2
x) (1R)-2-Amino-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol
(1R)-2-Azido-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol (16.99 g) was hydrogenated over 10% Pd—C (1 g) in EtOH (300 ml). The catalyst was collected by filtration, and washed with EtOH. The combined washings were evaporated under reduced pressure and the residue was triturated in ether to give the title compound (5.86 g). The mother liquors were chromatographed on a Biotage column eluting with toluene:EtOH:aqueous ammonia (85:14:1) to give a further batch of the title compound (5.99 g). LCMS RT=1.68 min, ES+ve 206 (MH—H2O)+.

reactant | (1R)-2-Azido-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 16.99 g | N(=[N+]=[N-])C[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C12H15N3O3
solvent | EtOH | 300 ml | CCO | C2H6O
catalyst | Pd—C | 1 g | [Pd] | Pd
product | (1R)-2-Amino-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanol | 5.86 g | NC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C12H17NO3
